2178-09-21 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 67 yo gentleman with multiple recent intubations
   following episodes of flash pulm edema, with significant cardiac hx
   including CABG, [**First Name8 (NamePattern2) **] [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4969**], hx VF arrest s/p AICD placement (removed
   because of bacteremia),
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-9-20**] 09:09 PM
 PICC LINE - START [**2178-9-20**] 09:38 PM
   -Pt had an episode of flash pulmonary edema last night, nitro gtt was
   initiated to control pressures but decreased this AM when pressures
   stabilized.
   -Weaned from CMV to CPAP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-19**] 03:48 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-9-21**] 02:56 AM
   Fentanyl - [**2178-9-21**] 02:56 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-21**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 65 (48 - 94) bpm
   BP: 88/46(57) {88/46(57) - 169/98(114)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                     54 mL
                                                                    155 mL
   PO:
             TF:
   IVF:
                                                                     54 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    120 mL
   Urine:
                                                                    400 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -346 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 23 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.46/39/164/28/4
   Ve: 6.3 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Gen: Intubated, NAD
   HEENT: ETT in place
   Pulm: CTA B
   CV: Nl S1+S2, IV/VI systolic murmur throughout precordium. JVP not
   visualized
   Abd: Soft, decreased BS, mildly tender to palpation in the LLQ
   Ext: RLE w/ clean dressing in place 2+ edema
   Neuro: responsive to questioning
   Labs / Radiology
   272 K/uL
   7.7 g/dL
   120 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.8 mEq/L
   35 mg/dL
   99 mEq/L
   135 mEq/L
   24.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2178-9-18**]  02:44 PM
                             [**2178-9-19**]  01:17 AM
                             [**2178-9-19**]  11:57 AM
                             [**2178-9-20**]  06:10 AM
                             [**2178-9-20**]  09:40 PM
                             [**2178-9-20**]  09:48 PM
                             [**2178-9-21**]  02:27 AM
                             [**2178-9-21**]  04:24 AM
                             [**2178-9-21**]  05:53 AM
   WBC
   13.4
   10.5
   8.0
   6.9
   Hct
   27.1
   24.3
   25.9
   24.3
   Plt
   265
   222
   274
   272
   Cr
   1.3
   1.1
   1.1
   1.3
   1.3
   TropT
   0.09
   0.09
   0.11
   0.11
   0.12
   TCO2
   31
   30
   29
   Glucose
   150
   63
   81
   296
   120
   Other labs: PT / PTT / INR:35.3/52.6/3.6, CK / CKMB /
   Troponin-T:23/3/0.12, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
    # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions, with this episode consistent with prior episodes.
   Although flash pulmonary edema is the most likely etiology of his
   hypoxic respiratory failure, other potential etiologies include ACS or
   PE, although these are less likely given his history and unchanged ECGs
   and supratherapeutic INR.   Flash pulmonary edema likely [**1-26**] anxiety,
   will attempt to control triggers of anxiety.
   - Nitro gtt, titrate to SBP<100
   - Titrate up bowel regimen
   - Will chart bx in regards to hx colonoscopy, consider consulting GI
   for scope if no records
   - Start amytriptyline today, will monitor QT interval
   - Isordil 5mg tid with MAP goal >50 in attempt to prevent pulmonary
   edema
   - Diuresis as needed for volume overload
   - Extubate today
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%). Pt with significant diuresis this
   stay, will hold lasix gtt but continue
   -Diurese with lasix gtt
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
    - Condom catheter to monitor I/Os, UOP
   - Continue meropenem for 14 d course (day 1=[**9-20**]).
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - Continue ASA and statin
   - Continue ACE-I and BB
   .
   # Rhythmn:  Currently in sinus with 1:1 conduction.  Patient has
   history of VF arrest with AICD removal given recurrent  bloodstream
   infections.
   -monitor on telemetry
   .
   #  Blood pressure: Tolerating SBPs in the 80s.
   - Anti-hypertensive regimen as above.
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**].
   - Continue wound VAC with replacement 3x/wk (MWF schedule).
   .
   # [**Month/Year (2) 4969**]: Goal INR 2.5 - 3.5. INR today was 3.6.
   - Continue Coumadin at half dose as on meropenem (2mg PO daily is the
   new dose starting today).
   .
   # DM 2:  Continue glargine 120 u qHS, ISS with accuchecks.
   .
   # Hyperlipidemia:- Continue atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   .
   ICU Care
   Nutrition: diabetic/cardiac diet
   Glycemic Control:
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Prophylaxis:
   DVT: warfarin
   Stress ulcer: H2B
   VAP:  extubate today.
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]
   Code status: Full (confirmed)
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date/time of visit was 9/28/9 at 1115 am.  Critically ill due to acute
   systolic and diastolic CHF, acute pulmonary edema, renal failure,
   urosepsis.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2178-9-21**] 16:51 ------

2178-09-22 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Right foot
   sore
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2178-9-21**] 11:36 AM
   Denies shortness of breath, abdominal pain, headache.
   Right foot sore.
   Sharp intermittent non-pleuritic pain comes & goes (relieved by
   percocet) at leftmost inferior rib region.
   Very eager to go home healthy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-22**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-9-21**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2178-9-21**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-22**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 77 (56 - 85) bpm
   BP: 88/46(57) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,347 mL
                                                                    228 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                    707 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    500 mL
   Urine:
                                                                  2,320 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -973 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 593 (593 - 593) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.44/42/135/28/4
   Ve: 9 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: NAD, cooperative, conversant.
   CV: RRR, harsh systolic murmur (blurs into 2^nd heart sound)
   auscultated throughout left upper chest and even heard in epigastric
   region, with loudest volume at RUSB.
   PULM: Clear to auscultation anterior and left posterior except for mild
   rales at left posterior base. Exam limited by patient
s position in
   bed.
   ABD: +BS, soft, NT, ND.
   EXTR: left leg amputated; right leg 1+ pitting edema, right foot
   bandaged from 9/28/9.
   SKIN: vascular insufficiency browning changes in right leg. No rashes
   appreciated.
   NEURO: alert, oriented, engages in conversation.
   Labs / Radiology
   247 K/uL
   7.2 g/dL
   156 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.6 mEq/L
   34 mg/dL
   98 mEq/L
   134 mEq/L
   22.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2178-9-19**]  01:17 AM
                             [**2178-9-19**]  11:57 AM
                             [**2178-9-20**]  06:10 AM
                             [**2178-9-20**]  09:40 PM
                             [**2178-9-20**]  09:48 PM
                             [**2178-9-21**]  02:27 AM
                             [**2178-9-21**]  04:24 AM
                             [**2178-9-21**]  05:53 AM
                             [**2178-9-21**]  09:25 AM
                             [**2178-9-22**]  02:01 AM
   WBC
   10.5
   8.0
   6.9
   5.3
   Hct
   24.3
   25.9
   24.3
   22.7
   Plt
   222
   274
   272
   247
   Cr
   1.1
   1.1
   1.3
   1.3
   1.2
   TropT
   0.09
   0.11
   0.11
   0.12
   TCO2
   31
   30
   29
   29
   Glucose
   63
   81
   296
   120
   156
   Other labs: PT / PTT / INR:27.7/56.6/2.7, CK / CKMB /
   Troponin-T:23/3/0.12, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions; this episode was consistent with prior episodes.
   Although flash pulmonary edema is the most likely etiology of his
   hypoxic respiratory failure, other potential etiologies include ACS or
   PE, although these are less likely given his history, unchanged ECGs,
   and supratherapeutic INR.   Perhaps anxiety provoked his flash
   pulmonary edema, but unclear if vice-versa is the case. Will attempt to
   control triggers of anxiety (ie: constipation). Extubated yesterday
   successfully ([**9-21**]).
   - Goal: 1L out today
   - Start spironolactone 12.5mg daily
   - Continue lasix drip at 20mg/hour and titrate as needed to meet goal
   diuresis
   - Amytriptyline started [**9-21**], will monitor QT interval
   - Isordil 10mg tid with MAP goal >50 in attempt to prevent pulmonary
   edema
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%). Pt with significant diuresis this
   stay, almost net negative 1L over past 24 hours.
   -Continue to diurese with lasix gtt and start spironolactone today
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Condom catheter to monitor I/Os, UOP
   - Continue meropenem for 14 d course (day 1=[**9-20**]).
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - Continue ASA and statin
   - Continue ACE-I and BB
   .
   # Rhythmn:  Currently in sinus with 1:1 conduction.  Patient has
   history of VF arrest with AICD removal given recurrent bloodstream
   infections.
   -monitor on telemetry
   .
   #  Constipation:
   - Continue bowel regimen (feels constipated, although last BM was
   yesterday evening (large, soft))
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   #  Blood pressure: Tolerating SBPs in the 80s.
   - Anti-hypertensive regimen as above.
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**].  Most recent wound care rec is to not have a VAC in place
   (previously was: continue wound VAC with replacement 3x/wk (MWF
   schedule)).
   - Follow-up vascular recommendations today
   .
   # AVR: Goal INR 2.5 - 3.5. INR today is 2.7.
   - Resume coumadin at home dose, 5 mg daily
   .
   # DM 2:  Continue glargine 120 u qHS, ISS with accuchecks.
   .
   # Hyperlipidemia: Continue atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   .
   # Hypokalemia:
   - Not going to replete K as starting spironolocatone
   - Check 3pm electrolytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Arterial Line - [**2178-9-21**] 05:22 AM
   Prophylaxis:
   DVT: warfarin
   Stress ulcer: H2B
   VAP:  extubated.
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]
   Code status: Full (confirmed)
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to acute on chronic systolic and diastolic CHF,
   hypoxic respiratory failure, renal impairment, peripheral vascular
   disease.
   Date/time was 9.29.9 at 1230.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2178-9-25**] 16:53 ------

2178-09-23 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SBP running in low 80s and high 70s o/n
   No other events overnight. Patient feels well this morning, though he
   complains of R foot pain and is asking for additional percocet.
   He doesn
t have any shortness of breath, chest pain.  No constipation.
   Heparin gtt started for suptherapeutic INR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-23**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-9-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-23**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 64 (60 - 93) bpm
   BP: 90/44(55) {76/38(49) - 116/57(67)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.4 kg (admission): 109 kg
             Total In:
                                                                  1,479 mL
                                                                    346 mL
   PO:
                                                                    700 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    779 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    800 mL
   Urine:
                                                                  3,125 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,646 mL
                                                                   -454 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General: NAD, cooperative, conversant, not anxious.
   CV: RRR, harsh systolic murmur (blurs into 2^nd heart sound)
   auscultated throughout left upper chest and even heard in epigastric
   region, with loudest volume at RUSB.
   PULM: Clear to auscultation anterior and left posterior.  Good air
   exchange. No rales or wheezes.
   ABD: +BS, soft, NT, ND.
   EXTR: left leg amputated; right leg 1+ pitting edema, right foot
   bandaged from [**2178-9-21**].
   SKIN: chronic venous stasis changes in  right leg. No rashes
   appreciated.
   NEURO: alert, oriented, engages in conversation.
   Labs / Radiology
   317 K/uL
   7.5 g/dL
   66 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.7 mEq/L
   34 mg/dL
   98 mEq/L
   136 mEq/L
   23.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2178-9-20**]  06:10 AM
                             [**2178-9-20**]  09:40 PM
                             [**2178-9-20**]  09:48 PM
                             [**2178-9-21**]  02:27 AM
                             [**2178-9-21**]  04:24 AM
                             [**2178-9-21**]  05:53 AM
                             [**2178-9-21**]  09:25 AM
                             [**2178-9-22**]  02:01 AM
                             [**2178-9-22**]  02:48 PM
                             [**2178-9-23**]  04:53 AM
   WBC
   8.0
   6.9
   5.3
   5.5
   Hct
   25.9
   24.3
   22.7
   23.7
   Plt
   274
   272
   247
   317
   Cr
   1.3
   1.3
   1.2
   1.3
   1.2
   TropT
   0.11
   0.11
   0.12
   TCO2
   31
   30
   29
   29
   Glucose
   296
   120
   156
   119
   66
   Other labs: PT / PTT / INR:22.2/43.7/2.1, CK / CKMB /
   Troponin-T:23/3/0.12, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions; this episode was consistent with prior episodes.
   Although flash pulmonary edema is the most likely etiology of his
   hypoxic respiratory failure, other potential etiologies include ACS or
   PE, although these are less likely given his history, unchanged ECGs,
   and supratherapeutic INR.   Perhaps anxiety provoked his flash
   pulmonary edema, but unclear if vice-versa is the case. Will attempt to
   control triggers of anxiety and constipation.
   - Goal: 1L out today
   - Continue spironolactone 12.5mg daily, titrate to 25mg daily in the
   next day
   - Stop lasix drip
   - Restart home dose of torsemide
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Isordil 10mg tid with MAP goal >50 in attempt to prevent pulmonary
   edema, will plan to increase to 25 TID on [**9-24**].
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%). Pt with significant diuresis this
   stay, almost net negative 1L over past 24 hours, currently euvolemic.
   -Continue to diurese with lasix gtt and start spironolactone today
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - Decrease ASA to 81mg daily
   - Continue ACE-I and BB, statin
   .
   # Rhythmn:  Currently in sinus with 1:1 conduction.  Patient has
   history of VF arrest with AICD removal given recurrent bloodstream
   infections.  Coumadin re-started yesterday, on Heparin drip.
   - monitor on telemetry
   - Continue Coumadin at home dose
   - Continue Heparin drip with goal PTT 60-80
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Condom catheter to monitor I/Os, UOP
   - Continue Meropenem for 14 d course (day 1=[**9-20**]).
   .
   #  Constipation:
   - Continue bowel regimen (feels constipated, although last BM was
   yesterday evening (large, soft)
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   #  Blood pressure: Tolerating SBPs in the 80s.
   - Anti-hypertensive regimen as above.
   .
   # Anemia: stable, chronic.  Transfusion not indicated at this time.
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**], now without wound vac in place.  No new vascular recs.
   -continue wound care per wound care recs.
   - D/C Percocet
   - Standing Tylenol
   - Re-start Oxycodone prn pain
   .
   # AVR: Goal INR 2.5 - 3.5. INR today is 2.7.
   - Continue coumadin at home dose, 5 mg daily
   .
   # DM 2:  Continue glargine 120 u qHS, ISS with accuchecks.
   .
   # Hyperlipidemia: Continue atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   .
   # Hypokalemia:  Repleted with small amt of K given lasix gtt and
   decline in K.  Expect to stabilize with discontinuation of lasix gtt
   and spironolactone.
   ICU Care
   Nutrition: heart healthy/diabetic
   Glycemic Control:  insulin glargine and SS
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Arterial Line - [**2178-9-21**] 05:22 AM
   Prophylaxis:
   DVT: warfarin, heparin ggt added not at goal on coumadin
   Stress ulcer: H2B
   VAP:  extubated.
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]
   Code status: Full (confirmed)
   Disposition: Floor today
   ------ Protected Section ------
   Critically ill due to acute on chronic systolic and diastolic CHF,
   hypoxic respiratory failure, renal impairment, peripheral vascular
   disease.
   Date/time was 9.30.9 at 1230.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2178-9-25**] 16:55 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Critically ill due to acute on chronic systolic and diastolic CHF,
   hypoxic respiratory failure, renal impairment, peripheral vascular
   disease.
   Date/time was 9.30.9 at 1230.
   Total time spent on patient care: 35 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2178-9-25**] 16:57 ------

2178-09-24 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
 PICC LINE - STOP [**2178-9-23**] 02:53 PM
   No SOB, no chest pain, no constipation, no abdominal discomfort. Right
   foot sore.
   Vitals from floor flowsheet: T 97.9
   BP 70/52 - 98/50
   HR: 68-72
   RR: 20
   97% SpO2 RA
   0/10 pain
   Ins: 340
   Out: 1675
   Net negative 1335 for this morning thus far
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-23**] 11:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-24**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 78 (63 - 84) bpm
   BP: 106/63(74) {78/39(45) - 106/63(74)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.4 kg (admission): 109 kg
                  Total In:
                                                                  1,356 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
                                                                    396 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                      0 mL
   Urine:
                                                                  1,875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -519 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   7.5 g/dL
   66 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.7 mEq/L
   34 mg/dL
   98 mEq/L
   136 mEq/L
   23.7 %
   5.5 K/uL
         [image002.jpg]
                             [**2178-9-20**]  06:10 AM
                             [**2178-9-20**]  09:40 PM
                             [**2178-9-20**]  09:48 PM
                             [**2178-9-21**]  02:27 AM
                             [**2178-9-21**]  04:24 AM
                             [**2178-9-21**]  05:53 AM
                             [**2178-9-21**]  09:25 AM
                             [**2178-9-22**]  02:01 AM
                             [**2178-9-22**]  02:48 PM
                             [**2178-9-23**]  04:53 AM
   WBC
   8.0
   6.9
   5.3
   5.5
   Hct
   25.9
   24.3
   22.7
   23.7
   Plt
   274
   272
   247
   317
   Cr
   1.3
   1.3
   1.2
   1.3
   1.2
   TropT
   0.11
   0.11
   0.12
   TCO2
   31
   30
   29
   29
   Glucose
   296
   120
   156
   119
   66
   Other labs: PT / PTT / INR:22.2/43.7/2.1, CK / CKMB /
   Troponin-T:23/3/0.12, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions; this episode was consistent with prior episodes.
   Although flash pulmonary edema is the most likely etiology of his
   hypoxic respiratory failure, other potential etiologies include ACS or
   PE, although these are less likely given his history, unchanged ECGs,
   and supratherapeutic INR.   Perhaps anxiety provoked his flash
   pulmonary edema, but unclear if vice-versa is the case. Will attempt to
   control triggers of anxiety and constipation.
   - Goal: 1 L out today
   - Increase spironolactone  to 25mg daily
   - Continue torsemide
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Increase Isordil to 20mg TID
   - Goal SBP < 130 to prevent flash pulmonary edema
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%). Pt with significant diuresis this
   stay, almost net negative 1L over past 24 hours, currently euvolemic on
   exam.
   -Continue to diurese, with spironolcatone and torsemide, goal 1L out
   today
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - ASA 81mg daily
   - Continue ACE-I and BB, statin
   .
   # Rhythmn:  Currently in sinus with 1:1 conduction.  Patient has
   history of VF arrest with AICD removal given recurrent bloodstream
   infections.  INR 2.4 so continue coumadin, on Heparin drip until
   therapeutic.
   - Monitor on telemetry
   - Continue Coumadin at home dose
   - Continue Heparin drip until INR therapeutic
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Condom catheter to monitor I/Os, UOP
   - Continue Meropenem for 14 d course (day 1=[**9-20**]).
   .
   #  Constipation:
   - Continue bowel regimen
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 130.
   - Anti-hypertensive regimen as above.
   .
   # Anemia: stable, chronic.  Transfusion not indicated at this time.
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**], now without wound vac in place.  No new vascular recs.
   - continue wound care per wound care recs.
   - Standing Tylenol
   - Oxycodone prn pain
   .
   # AVR: Goal INR 2.5 - 3.5. INR today is 2.4.
   - Continue coumadin at home dose, 5 mg daily
   - Continue heparin gtt until therapeutic with coumadin
   .
   # DM 2:  Continue glargine 120 u qHS, ISS with accuchecks.
   .
   # Hyperlipidemia: Continue atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   ICU Care
   Electrolytes: replete PRN
   Nutrition: heart healthy/diabetic
   Glycemic Control:  insulin glargine and SS
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Arterial Line - [**2178-9-21**] 05:22 AM
   Prophylaxis:
   DVT: warfarin, heparin ggt added as not at goal INR on coumadin
   Stress ulcer: H2B
   VAP:  extubated.
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]
   Code status: Full (confirmed)
   Disposition: Floor today
   ------ Protected Section ------
   .Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to acute on chronic systolic and diastolic CHF,
   hypoxic respiratory failure, renal impairment, peripheral vascular
   disease.
   Date/time was 9.29.9 at 1230.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2178-9-25**] 16:56 ------
   ERROR
 date and time of service was 10/1/9 at 1230.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2178-9-25**] 16:58 ------

2178-09-25 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Foot/leg pain
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-9-24**] 01:00 PM
 PICC LINE - START [**2178-9-24**] 01:40 PM
   at 40cm
 EKG - At [**2178-9-25**] 05:26 AM
   Had overnight episode of chest pain; EKG without acute changes, no
   longer with pain.
   Denies difficulty breathing, chest pain, abdominal pain, constipation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-25**] 06:01 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Fentanyl - [**2178-9-24**] 02:30 PM
   Heparin Sodium - [**2178-9-24**] 07:30 PM
   Dextrose 50% - [**2178-9-25**] 03:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-25**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 59 (53 - 98) bpm
   BP: 94/45(58) {63/34(44) - 127/66(79)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 109.4 kg (admission): 109 kg
             Total In:
                                                                  1,094 mL
                                                                    412 mL
   PO:
             TF:
   IVF:
                                                                    194 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    570 mL
   Urine:
                                                                    705 mL
                                                                    270 mL
   NG:
   300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,536 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.51/35/227/33/5
   Ve: 11.1 L/min
   PaO2 / FiO2: 568
   Physical Examination
   GEN: alert, intubated, nods head to respond to questions
   appropriately.:
   CV:: systolic murmur radiates throughout chest, loudest at RUSB.
   LUNGS: CTAB anteriorly
   ABD: +BS, soft, NT, ND
   EXTR: 1+edema right leg, no edema left leg; right foot bandaged.
   Labs / Radiology
   274 K/uL
   7.2 g/dL
   51 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.1 mEq/L
   34 mg/dL
   101 mEq/L
   140 mEq/L
   23.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2178-9-21**]  04:24 AM
                             [**2178-9-21**]  05:53 AM
                             [**2178-9-21**]  09:25 AM
                             [**2178-9-22**]  02:01 AM
                             [**2178-9-22**]  02:48 PM
                             [**2178-9-23**]  04:53 AM
                             [**2178-9-24**]  02:30 PM
                             [**2178-9-24**]  03:24 PM
                             [**2178-9-24**]  11:01 PM
                             [**2178-9-25**]  02:30 AM
   WBC
   6.9
   5.3
   5.5
   8.2
   5.6
   Hct
   24.3
   22.7
   23.7
   23.9
   22.6
   23.3
   Plt
   272
   247
   317
   302
   274
   Cr
   1.3
   1.2
   1.3
   1.2
   1.1
   1.1
   TropT
   0.12
   TCO2
   29
   29
   29
   Glucose
   120
   156
   119
   66
   128
   51
   Other labs: PT / PTT / INR:32.3/72.7/3.3, CK / CKMB /
   Troponin-T:23/3/0.12, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions. Although flash pulmonary edema is the most likely
   etiology of his hypoxic respiratory failure, other potential etiologies
   include ACS or PE, although these are less likely given his history,
   unchanged ECGs, and heparin/coumadin treatment.   Perhaps anxiety
   provoked his flash pulmonary edema, but unclear if vice-versa is the
   case. Will attempt to control triggers of anxiety and constipation.
   Currently intubated after flashing again on the floor yesterday ([**9-24**]).
   - Goal: 2 L out today, as long as tolerated by BP
   - Continue spironolactone 25mg daily
   - Discontinue torsemide while on lasix
   - Lasix drip (currently at 12 mg/hour, titrate as needed to diurese to
   goal)
   - Follow K [**Hospital1 **] while diuresing and replete so on the order closer
   to/greater than 4.5 goal
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Hold Isordil to 20mg TID
   - Goal SBP < 130 to prevent flash pulmonary edema; can tolerate lower
   SBP
s as needed while diuresing
   - Currently intubated and ventilated, attempt to wean as appropriate
   - Hope to extubated tomorrow morning after another 24 hours of strong
   diuresis
   - Prepare for Swan on Monday (10/5/9)
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%). Pt with significant diuresis this
   stay, yet had flash pulmonary edema again yesterday.
   -Continue to diurese, as above
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - ASA 81mg daily
   - Continue ACE-I and BB, statin
   .
   # Rhythmn:  Currently in sinus with 1:1 conduction.  Patient has
   history of VF arrest with AICD removal given recurrent bloodstream
   infections.
   - Monitor on telemetry
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Condom catheter to monitor I/Os, UOP
   - Continue Meropenem for 14 d course (day 1=[**9-20**]; final day = 10/10/9).
   .
   #  Constipation:
   - Continue agressive bowel regimen
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 130.
   - Anti-hypertensive regimen as above, combined with diuresis.
   .
   # Anemia
 patient with chronic anemia, but with more recent 4-poing
   Hct drop yesterday that then stabilized overnight. Guiac negative, no
   obvious bleeding source found on exam
   - Check afternoon Hct
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**]; no longer with wound vac in place.
   - continue wound care per wound care recs.
   - standing Tylenol
   - Oxycodone prn pain
   .
   # AVR: Goal INR 2.5 - 3.5. INR today is 3.3
   - Continue heparin drip; hold on re-starting coumadin (although INR
   therapeutic, hold on starting coumadin as prepare for Swan procedure
   Monday 10/5/9)
   .
   # DM 2:  Patient NPO, so glargine dose halved from 120 to 60 u qhs
   had episode of hypoglycemia o/n, so decrease glargine again to 40 u qhs
   today
   .
   # Hyperlipidemia: Continue atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   .
   # Nutriton: Nutrition consult re: OG feeding
   ICU Care
   Electrolytes: replete PRN
   Nutrition: NPO
   Glycemic Control:  insulin glargine and SS
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: H2B
   VAP:  intubated; head of bed at 30degrees
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]. Talk to
   patient
s wife today when she comes to visit.
   Code status: Full (confirmed)
   Disposition: CCU care

2178-09-26 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt indicates L foot pain at bandaged site.  No acute events overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-26**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 19 mg/hour
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Fentanyl - [**2178-9-26**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 63 (55 - 64) bpm
   BP: 90/44(56) {71/31(40) - 97/53(62)} mmHg
   RR: 13 (5 - 15) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 109.4 kg (admission): 109 kg
   Height: 72 Inch
             Total In:
                                                                  1,240 mL
                                                                    626 mL
   PO:
             60 mL
   TF:
                                                                     90 mL
                                                                    192 mL
   IVF:
                                                                    865 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                  1,020 mL
   Urine:
                                                                  2,115 mL
                                                                  1,020 mL
   NG:
                                                                    625 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 602 (460 - 667) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.2 L/min
   Physical Examination
   GEN: Alert, intubated, nods head to questions appropriately.
   CV:: RRR, GII systolic murmur at RUSB with radiation throughout
   precordium.
   LUNGS: CTAB anteriorly
   ABD: Soft, NT, ND
   EXTR: 1+edema right leg; right foot bandaged.
   Labs / Radiology
   281 K/uL
   7.2 g/dL
   160 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.7 mEq/L
   30 mg/dL
   99 mEq/L
   136 mEq/L
   22.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2178-9-21**]  09:25 AM
                             [**2178-9-22**]  02:01 AM
                             [**2178-9-22**]  02:48 PM
                             [**2178-9-23**]  04:53 AM
                             [**2178-9-24**]  02:30 PM
                             [**2178-9-24**]  03:24 PM
                             [**2178-9-24**]  11:01 PM
                             [**2178-9-25**]  02:30 AM
                             [**2178-9-25**]  05:25 PM
                             [**2178-9-26**]  03:12 AM
   WBC
   5.3
   5.5
   8.2
   5.6
   5.3
   Hct
   22.7
   23.7
   23.9
   22.6
   23.3
   23.4
   22.9
   Plt
   247
   317
   302
   274
   281
   Cr
   1.2
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.08
   TCO2
   29
   29
   Glucose
   156
   119
   66
   128
   51
   160
   Other labs: PT / PTT / INR:41.3/85.9/4.4, CK / CKMB /
   Troponin-T:23/3/0.08, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions. Although flash pulmonary edema is the most likely
   etiology of his hypoxic respiratory failure, other potential etiologies
   include ACS or PE, although these are less likely given his history,
   unchanged ECGs, and heparin/coumadin treatment.   Perhaps anxiety
   provoked his flash pulmonary edema, but unclear if vice-versa is the
   case. Will attempt to control triggers of anxiety and constipation.
   Currently intubated after flashing again on the floor [**9-24**], awaiting
   potential extubation today.  Believe pt currently euvolemic, will
   attempt to maintain pre-load at current state and decrease afterload
   with up-titrating doses of Captopril.
   - Initiate Captopril 6.25mg daily and uptitrate as BP tolerates up to
   50mg tid for afterload reduction
   - Consider decreasing Isordil if needed for BP as afterload is reduced
   - Goal I/O even, titrate Lasix boluses as appropriate, d/c Lasix drip
   - Continue Spironolactone 25mg daily
   - Discontinue torsemide while on lasix
   - Lytes [**Hospital1 **] while diuresing and replete prn
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Goal SBP < 130 to prevent flash pulmonary edema; can tolerate lower
   SBP
s as needed
   - Currently intubated and ventilated, anticipate extubation today
   - Anticipate Swan on Monday (10/5/9)
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%) and diastolic dysfunction. Pt with
   significant diuresis this stay, yet had flash pulmonary edema again
   yesterday.
   -Convert Lasix to boluses to keep I/O even, as above
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - Continue ACE-I, BB, statin, ASA 81mg daily
   .
   # Rhythm:  Currently in sinus with 1:1 conduction.  Patient has history
   of VF arrest with AICD removal given recurrent bloodstream infections.
   - Monitor on telemetry
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Condom catheter to monitor I/Os, UOP
   - Continue Meropenem for 14 d course (day 1=[**9-20**]; final day = 10/10/9).
   .
   #  Constipation:
   - Continue agressive bowel regimen
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 130.
   - Anti-hypertensive regimen as above, with initiation of Captopril for
   afterload reduction
   .
   # Anemia
 patient with chronic anemia, but with more recent 4-point
   Hct drop yesterday that then stabilized overnight. Guiac negative, no
   obvious bleeding source found on exam.  Hct stable at ~22 following
   recent decrease in Hct, no evidence of bleeding.
   - Monitor Hct
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**]; no longer with wound vac in place.
   - Continue wound care per wound care recs.
   - Standing Tylenol
   - Oxycodone prn pain
   .
   # AVR: Goal INR 2.5 - 3.5. INR today is 4.6.
   - Hold Coumadin as INR supratherapeutic, particularly in anticipation
   of Swan Monday [**2178-9-28**]
   - Continue heparin drip
   .
   # DM 2:  Patient NPO, so Glargine dose halved from 120 to 60 units qhs
 had episode of hypoglycemia o/n, so decrease glargine again to 40 u
   qhs recently.
   - Titrate up Glargine as necessary following extubation.
   .
   # Hyperlipidemia: Continue Atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   .
   # Nutriton: Nutrition consult re: OG feeding
   ICU Care
   Electrolytes: replete PRN
   Nutrition: NPO
   Glycemic Control:  insulin glargine and SS
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: H2B
   VAP:  intubated; head of bed at 30degrees
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]. Talk to
   patient
s wife today when she comes to visit.
   Code status: Full (confirmed)
   Disposition: CCU care

2178-09-27 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 67 yo gentleman with multiple recent intubations
   following episodes of flash pulm edema, with significant cardiac hx
   including CABG, [**First Name8 (NamePattern2) **] [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4969**], hx VF arrest s/p AICD placement (removed
   because of bacteremia).
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2178-9-26**] 04:52 PM
   -Extubated
   -Carvedilol 6.25mg titrated up to 12.5mg tid as SBP 102 at 21:00 then
   25mg tid for AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-26**] 06:00 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Furosemide (Lasix) - 19 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 66 (59 - 80) bpm
   BP: 86/48(57) {75/35(43) - 109/69(77)} mmHg
   RR: 19 (7 - 26) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 109.4 kg (admission): 109 kg
   Height: 72 Inch
             Total In:
                                                                  2,242 mL
                                                                    423 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
                                                                    410 mL
   IVF:
                                                                  1,002 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                    775 mL
   Urine:
                                                                  3,305 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,063 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 591 (590 - 591) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 8.1 L/min
   Physical Examination
   GEN: Alert and oriented x3, extubated, nods head to questions
   appropriately.
   CV:: RRR, GII systolic murmur at RUSB with radiation throughout
   precordium.
   LUNGS: CTAB anteriorly
   ABD: Soft, NT, ND
   EXTR: 1+edema right leg; right foot bandaged.
   Labs / Radiology
   273 K/uL
   6.9 g/dL
   160 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.7 mEq/L
   30 mg/dL
   99 mEq/L
   136 mEq/L
   22.5 %
   4.8 K/uL
                             [**2178-9-22**]  02:01 AM
                             [**2178-9-22**]  02:48 PM
                             [**2178-9-23**]  04:53 AM
                             [**2178-9-24**]  02:30 PM
                             [**2178-9-24**]  03:24 PM
                             [**2178-9-24**]  11:01 PM
                             [**2178-9-25**]  02:30 AM
                             [**2178-9-25**]  05:25 PM
                             [**2178-9-26**]  03:12 AM
                             [**2178-9-27**]  05:02 AM
   WBC
   5.3
   5.5
   8.2
   5.6
   5.3
   4.8
   Hct
   22.7
   23.7
   23.9
   22.6
   23.3
   23.4
   22.9
   22.5
   Plt
   247
   317
   302
   274
   281
   273
   Cr
   1.2
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   0.08
   TCO2
   29
   Glucose
   156
   119
   66
   128
   51
   160
   Other labs: PT / PTT / INR:49.1/72.2/5.4, CK / CKMB /
   Troponin-T:23/3/0.08, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   67 yo gentleman with multiple recent intubations following episodes of
   flash pulm edema, with significant cardiac hx including CABG, [**First Name8 (NamePattern2) **] [**Male First Name (un) **]
   [**Male First Name (un) 4969**], hx VF arrest s/p AICD placement (removed because of bacteremia).
   Pt recently had another episode of flash pulm edema, requiring
   intubation, now extubated and comfortable.
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions. Although flash pulmonary edema is the most likely
   etiology of his hypoxic respiratory failure, other potential etiologies
   include ACS or PE, although these are less likely given his history,
   unchanged ECGs, and heparin/coumadin treatment.   Perhaps anxiety
   provoked his flash pulmonary edema, but unclear if vice-versa is the
   case. Will attempt to control triggers of anxiety and constipation.
   Currently intubated after flashing again on the floor [**9-24**], awaiting
   potential extubation today.  Believe pt currently euvolemic, will
   attempt to maintain pre-load at current state and decrease afterload
   with up-titrating doses of Captopril.
   - Initiate Captopril 6.25mg daily and uptitrate as BP tolerates up to
   50mg tid for afterload reduction
   - Consider decreasing Isordil if needed for BP as afterload is reduced
   - Goal I/O even, titrate Lasix boluses as appropriate, d/c Lasix drip
   - Continue Spironolactone 25mg daily
   - Discontinue torsemide while on lasix
   - Lytes [**Hospital1 **] while diuresing and replete prn
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Goal SBP < 130 to prevent flash pulmonary edema; can tolerate lower
   SBP
s as needed
   - Currently intubated and ventilated, anticipate extubation today
   - Anticipate Swan on Monday (10/5/9)
   .
   #  Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%) and diastolic dysfunction. Pt with
   significant diuresis this stay, yet had flash pulmonary edema again
   yesterday.
   -Convert Lasix to boluses to keep I/O even, as above
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.
   - Continue ACE-I, BB, statin, ASA 81mg daily
   .
   # Rhythm:  Currently in sinus with 1:1 conduction.  Patient has history
   of VF arrest with AICD removal given recurrent bloodstream infections.
   - Monitor on telemetry
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Condom catheter to monitor I/Os, UOP
   - Continue Meropenem for 14 d course (day 1=[**9-20**]; final day = 10/10/9).
   .
   #  Constipation:
   - Continue agressive bowel regimen
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 130.
   - Anti-hypertensive regimen as above, with initiation of Captopril for
   afterload reduction
   .
   # Anemia
 patient with chronic anemia, but with more recent 4-point
   Hct drop yesterday that then stabilized overnight. Guiac negative, no
   obvious bleeding source found on exam.  Hct stable at ~22 following
   recent decrease in Hct, no evidence of bleeding.
   - Monitor Hct
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**]; no longer with wound vac in place.
   - Continue wound care per wound care recs.
   - Standing Tylenol
   - Oxycodone prn pain
   .
   # [**Month/Year (2) 4969**]: Goal INR 2.5 - 3.5. INR today is 4.6.
   - Hold Coumadin as INR supratherapeutic, particularly in anticipation
   of Swan Monday [**2178-9-28**]
   - Continue heparin drip
   .
   # DM 2:  Patient NPO, so Glargine dose halved from 120 to 60 units qhs
 had episode of hypoglycemia o/n, so decrease glargine again to 40 u
   qhs recently.
   - Titrate up Glargine as necessary following extubation.
   .
   # Hyperlipidemia: Continue Atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   .
   # Nutriton: Nutrition consult re: OG feeding
   ICU Care
   Electrolytes: replete PRN
   Nutrition: NPO
   Glycemic Control:  insulin glargine and SS
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: H2B
   VAP:  intubated; head of bed at 30degrees
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]. Talk to
   patient
s wife today when she comes to visit.
   Code status: Full (confirmed)
   Disposition: CCU care

2178-09-28 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Extubated [**2178-9-26**] 04:52 PM
   -Pt refused bowel meds [**9-27**], no BM overnight.
   -On lasix gtt at 10mg/hr. captopril dose increased to 50mg.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-26**] 06:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 73 (62 - 81) bpm
   BP: 95/43(57) {72/34(43) - 104/61(67)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 109.4 kg (admission): 109 kg
   Height: 72 Inch
             Total In:
                                                                  1,585 mL
                                                                    195 mL
   PO:
                                                                  1,080 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    505 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,625 mL
                                                                  1,370 mL
   Urine:
                                                                  2,625 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                 -1,175 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   GEN: Alert and oriented x3, extubated, nods head to questions
   appropriately.
   CV:: RRR, GIII systolic murmur at RUSB with radiation throughout
   precordium
   LUNGS: Minimal rales at bases b/l, otherwise clear
   ABD: Soft, NT, ND, +BS
   EXTR: 2+edema right leg; right foot bandaged, amputated L leg.
   Labs / Radiology
   264 K/uL
   7.5 g/dL
   153 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.6 mEq/L
   34 mg/dL
   97 mEq/L
   133 mEq/L
   23.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2178-9-23**]  04:53 AM
                             [**2178-9-24**]  02:30 PM
                             [**2178-9-24**]  03:24 PM
                             [**2178-9-24**]  11:01 PM
                             [**2178-9-25**]  02:30 AM
                             [**2178-9-25**]  05:25 PM
                             [**2178-9-26**]  03:12 AM
                             [**2178-9-27**]  05:02 AM
                             [**2178-9-27**]  07:11 PM
                             [**2178-9-28**]  03:24 AM
   WBC
   5.5
   8.2
   5.6
   5.3
   4.8
   6.0
   Hct
   23.7
   23.9
   22.6
   23.3
   23.4
   22.9
   22.5
   23.5
   Plt
   [**Telephone/Fax (2) 10492**]
   Cr
   1.2
   1.1
   1.1
   1.1
   0.9
   1.0
   1.0
   TropT
   0.08
   TCO2
   29
   Glucose
   66
   128
   51
   160
   75
   153
   Other labs: PT / PTT / INR:26.8/49.0/2.6, CK / CKMB /
   Troponin-T:23/3/0.08, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 67 yo gentleman with multiple recent intubations following episodes
   of flash pulm edema, with significant cardiac hx including CABG, [**First Name8 (NamePattern2) **]
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4969**], hx VF arrest s/p AICD placement (removed because of
   bacteremia).  Pt recently had another episode of flash pulm edema,
   requiring intubation, now extubated and comfortable.
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions, most likely [**1-26**] hypoxic respiratory failure (other
   potential etiologies include ACS or PE, although these are less likely
   given his history, unchanged ECGs, and heparin/coumadin treatment).
   Perhaps anxiety provoked his flash pulmonary edema, but unclear if
   vice-versa is the case. Will attempt to control triggers of anxiety and
   constipation.  Now extubated.  Main focus at this time is controlling
   BPs and PE triggers.  Goal SBP < 100 to prevent flash pulmonary edema.
   - Continue Captopril 50mg tid for afterload reduction
   - Continue Spironolactone 25mg daily
   - Goal I/O even, continue Lasix gtt at 10mg/hr
   - Lytes [**Hospital1 **] while diuresing
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Continue Ativan prn for anxiety
   - Continue aggressive bowel regimen
   .
   # Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%) and diastolic dysfunction. Pt with
   significant diuresis this stay, currently appears euvolemic with goal
   to keep (-)500cc/day.
   -Currently on Lasix drip with -1L/day, consider converting to Lasix to
   boluses
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.  No CP o/n, previous episodes of CP did not seem to be
   cardiac in origin.
   - Continue ACE-I, BB, statin, ASA 81mg daily
   .
   # Rhythm:  Currently in sinus with 1:1 conduction.  Patient has history
   of VF arrest with AICD removal given recurrent bloodstream infections.
   - Monitor on telemetry
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 100.
   - Anti-hypertensive regimen as above, with uptitration of Captopril for
   afterload reduction
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Continue Meropenem for 14 d course (day 1=[**9-20**]; final day = 10/10/9).
   .
   #  Constipation:  Continue agressive bowel regimen.
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   # Anemia
 Patient with chronic anemia, but with more recent 4-point
   Hct drop on admission that has been stable since. Guiac negative, no
   obvious bleeding source found on exam.  Given that Hct has been
   consistently low, suspect that Hct 27.3 was likely a spurious result.
   Retic count high at 2.3.
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**]; no longer with wound vac in place.
   - Continue wound care per wound care recs.
   - Standing Tylenol
   - Oxycodone prn pain
   .
   # [**Month/Year (2) 4969**]: Goal INR 2.5 - 3.5. INR today is 2.6.  On Coumadin, Heparin
   d/c
ed recently.
   - INR therapeutic
   .
   # DM 2:  Patient NPO, so Glargine dose halved from 120 to 60 units qhs
 had episode of hypoglycemia o/n, so decrease glargine again to 40 u
   qhs recently.  Sugars in good range since recent change in insulin
   dose.
   - Titrate up Glargine as needed
   .
   # Hyperlipidemia: Continue Atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   ICU Care
   Electrolytes: replete PRN
   Nutrition: Cardiac heart healthy/diabetic diet/high fiber
   Glycemic Control:  insulin glargine and SS
   Lines: PIV, PICC
   PICC Line - [**2178-9-20**] 09:38 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: H2B
   VAP:  intubated; head of bed at 30degrees
   Comments:
   Communication:  Comments: wife, [**Name (NI) 845**] [**Name (NI) 10366**], [**Telephone/Fax (1) 10145**]. Talk to
   patient
s wife today when she comes to visit.
   Code status: Full (confirmed)
   Disposition: CCU care
   ------ Protected Section ------
   TITLE:    ATTENDING PROGRESS NOTE
   I have reviewed the Progress Note by Dr. [**First Name (STitle) **] today and I concur with
   the history, physical examination, assessment and treatment plan.  Mr.
   [**Known lastname 10165**] is well known to the CCU due to a prolonged hospitalization
   complicated by recurrent requirements for intubation for flash
   pulmonary edema.  It is felt that these episodes result from changes in
   the systolic BP (to 140-160 mmHg).
   Over the past 24 hours, he has continued to diurese 1-2 L per day.  His
   capropril has been increased to 50 mg tid and he is tolerating this
   with BPs in the high 90s and low 100s.
   He remains symptomatically much improved
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2178-9-28**] 21:33 ------

2178-09-29 06:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: CHF, flash pulmonary edema
   24 Hour Events:
   met I&O goal at approx 1am, and SBP in high 70s w/map ~50, so d/c'd
   lasix gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-28**] 11:59 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2178-9-28**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-29**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 58 (57 - 86) bpm
   BP: 83/46(55) {71/33(43) - 111/59(71)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 111.5 kg (admission): 109 kg
   Height: 72 Inch
             Total In:
                                                                  1,470 mL
                                                                     44 mL
   PO:
                                                                    839 mL
             TF:
   IVF:
                                                                    631 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                    640 mL
   Urine:
                                                                  3,740 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,270 mL
                                                                   -596 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GEN: Alert and oriented x3, extubated, nods head to questions
   appropriately.
   CV:: RRR, GIII systolic murmur at RUSB with radiation throughout
   precordium
   LUNGS: CTA anteriorly
   ABD: Soft, NT, ND, +BS
   EXTR: 2+edema right leg; right foot bandaged, amputated L leg.
   Labs / Radiology
   7.0 g/dL
   216 K/uL
   139 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   40 mg/dL
   98 mEq/L
   134 mEq/L
   22.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2178-9-24**]  03:24 PM
                             [**2178-9-24**]  11:01 PM
                             [**2178-9-25**]  02:30 AM
                             [**2178-9-25**]  05:25 PM
                             [**2178-9-26**]  03:12 AM
                             [**2178-9-27**]  05:02 AM
                             [**2178-9-27**]  07:11 PM
                             [**2178-9-28**]  03:24 AM
                             [**2178-9-28**]  05:23 PM
                             [**2178-9-29**]  04:41 AM
   WBC
   8.2
   5.6
   5.3
   4.8
   6.0
   4.5
   Hct
   23.9
   22.6
   23.3
   23.4
   22.9
   22.5
   23.5
   22.7
   Plt
   [**Telephone/Fax (3) **]73
   264
   216
   Cr
   1.1
   1.1
   1.1
   0.9
   1.0
   1.0
   1.0
   1.1
   TropT
   0.08
   Glucose
   128
   51
   160
   75
   153
   142
   139
   Other labs: PT / PTT / INR:18.7/44.0/1.7, CK / CKMB /
   Troponin-T:23/3/0.08, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 67 yo gentleman with multiple recent intubations following episodes
   of flash pulm edema, with significant cardiac hx including CABG, [**First Name8 (NamePattern2) **]
   [**First Name11 (Name Pattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4969**], hx VF arrest s/p AICD placement (removed because of
   bacteremia).  Pt recently had another episode of flash pulm edema,
   requiring intubation, now extubated and comfortable.
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions, most likely [**1-26**] hypoxic respiratory failure (other
   potential etiologies include ACS or PE, although these are less likely
   given his history, unchanged ECGs, and heparin/coumadin treatment).
   Perhaps anxiety provoked his flash pulmonary edema, but unclear if
   vice-versa is the case. Will attempt to control triggers of anxiety and
   constipation.  Now extubated.  Main focus at this time is controlling
   BPs and PE triggers.  Goal SBP < 100 to prevent flash pulmonary edema.
   - Continue Captopril 50mg tid for afterload reduction
   - Continue Spironolactone 25mg daily
   - Goal I/O even, will hold lasix gtt for now and bolus diuril as needed
   - Lytes [**Hospital1 **] while diuresing
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Continue Ativan prn for anxiety
   - Continue aggressive bowel regimen
   .
   # Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%) and diastolic dysfunction. Pt with
   significant diuresis this stay, currently appears euvolemic with goal
   to keep (-)500cc/day.
   -diuril boluses to maintain Is and Os at goal
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed.  No CP o/n, previous episodes of CP did not seem to be
   cardiac in origin.
   - Continue ACE-I, BB, statin, ASA 81mg daily
   .
   # Rhythm:  Currently in sinus with 1:1 conduction.  Patient has history
   of VF arrest with AICD removal given recurrent bloodstream infections.
   - Monitor on telemetry
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 100.
   - Anti-hypertensive regimen as above, will likely continue captopril as
   outpatient
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Continue Meropenem for 14 d course (day 1=[**9-20**]; final day = 10/10/9).
   .
   #  Constipation:  Continue agressive bowel regimen.
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   # Anemia
 Patient with chronic anemia, but with more recent 4-point
   Hct drop on admission that has been stable since. Guiac negative, no
   obvious bleeding source found on exam.  Given that Hct has been
   consistently low, suspect that Hct 27.3 was likely a spurious result.
   Retic count high nl when adjusted for low crit.
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**]; no longer with wound vac in place.
   - Continue wound care per wound care recs.
   - Standing Tylenol
   - Oxycodone prn pain
   .
   # [**Month/Year (2) 4969**]: Goal INR 2.5 - 3.5. INR today is 2.6.  On Coumadin, at half home
   dose
   - increase coumadin dose to home dose of  5mg
   -restart heparin gtt until therapeutic on warfarin
   .
   # DM 2:  Patient NPO, so Glargine dose halved from 120 to 60 units qhs
 had episode of hypoglycemia o/n, so decrease glargine again to 40 u
   qhs recently.  Sugars in good range since recent change in insulin
   dose.
   - Titrate up Glargine as needed
   .
   # Hyperlipidemia: Continue Atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate.
   ICU Care
   Nutrition: heart health, diabetic diet
   Glycemic Control:  glargine, ISS
   Lines:
   PICC Line - [**2178-9-24**] 01:40 PM
   Prophylaxis:
   DVT: coumadin/heparin
   Stress ulcer: -
   VAP: -
   Comments:
   Communication:  Comments: with wife
   [**Name (NI) 66**] status: Full code
   Disposition : CCU for now until stable on anti-hypertensive/diuretic
   meds.
   Total time spent:
   ------ Protected Section ------
   TITLE:    ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) 6984**] today and
   I concur with the history, physical examination, assessment and
   treatment plan. The physical examination documented above is consistent
   with mine today.   Mr. [**Known lastname 10165**] is well known to the CCU due to a
   prolonged hospitalization complicated by recurrent requirements for
   intubation for flash pulmonary edema.  It is felt that these episodes
   result from changes in the systolic BP (to 140-160 mmHg).
   Over the past 24 hours, his diuresis has continued, but he has had
   hypotension with a systolic BP ranging between 60-80 systolic for most
   of the day.  Although his is asymptomatic, we will lower his captopril
   to 37.5 mg tid to allow him a slightly higher systolic BP.
   He remains symptomatically improved without episodes of flash pulmonary
   edema.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2178-9-29**] 19:50 ------

2178-09-30 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
   No CP, no SOB, feels well, keen to go home.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-9-30**] 05:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2178-9-29**] 12:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-30**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 60 (53 - 70) bpm
   BP: 79/37(45) {69/27(38) - 101/52(63)} mmHg
   RR: 15 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 0 kg (admission): 109 kg
   Height: 72 Inch
             Total In:
                                                                  2,086 mL
                                                                    340 mL
   PO:
                                                                  1,420 mL
             TF:
   IVF:
                                                                    666 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                  1,130 mL
   Urine:
                                                                  1,355 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    731 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GEN: resting in bed, cooperative, NAD
   CV: RRR, II/VI SEM loudest at RUSB
   PULM: CTAB
   EXTR: Right leg 1+ pitting edema, right foot bandaged.
   Labs / Radiology
   227 K/uL
   7.2 g/dL
   175 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   42 mg/dL
   99 mEq/L
   136 mEq/L
   22.9 %
   3.9 K/uL
        [image002.jpg]
                             [**2178-9-24**]  11:01 PM
                             [**2178-9-25**]  02:30 AM
                             [**2178-9-25**]  05:25 PM
                             [**2178-9-26**]  03:12 AM
                             [**2178-9-27**]  05:02 AM
                             [**2178-9-27**]  07:11 PM
                             [**2178-9-28**]  03:24 AM
                             [**2178-9-28**]  05:23 PM
                             [**2178-9-29**]  04:41 AM
                             [**2178-9-30**]  04:35 AM
   WBC
   5.6
   5.3
   4.8
   6.0
   4.5
   3.9
   Hct
   22.6
   23.3
   23.4
   22.9
   22.5
   23.5
   22.7
   22.9
   Plt
   274
   281
   273
   [**Telephone/Fax (3) 10521**]
   Cr
   1.1
   1.1
   0.9
   1.0
   1.0
   1.0
   1.1
   1.1
   TropT
   0.08
   Glucose
   51
   160
   75
   153
   142
   139
   175
   Other labs: PT / PTT / INR:17.9/150.0/1.6, CK / CKMB /
   Troponin-T:23/3/0.08, Differential-Neuts:88.4 %, Band:0.0 %, Lymph:5.6
   %, Mono:5.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   No new micro or imaging results.
   Assessment and Plan
   67 yo gentleman with multiple recent intubations following episodes of
   flash pulm edema, with significant cardiac hx including CABG, [**First Name8 (NamePattern2) **] [**Male First Name (un) **]
   AVR, hx VF arrest s/p AICD placement (removed because of bacteremia).
   Patient now extubated and breathing comfortably.
   # Hypoxic respiratory failure:  Patient has had multiple episodes of
   flash pulmonary edema requiring intubation during his multiple MICU and
   CCU admissions, most likely [**1-26**] hypoxic respiratory failure (other
   potential etiologies include ACS or PE, although these are less likely
   given his history, unchanged ECGs, and heparin/coumadin treatment).
   Perhaps anxiety provoked his flash pulmonary edema, but unclear if
   vice-versa is the case. Will attempt to control triggers of anxiety and
   constipation.  Now extubated.  Main focus at this time is controlling
   BPs and PE triggers.  Goal SBP < 100 to prevent flash pulmonary edema.
   - Yesterday, Captopril decreased from 50mg tid to 37.5mg tid, for
   afterload reduction, d/t lower BP
   - Continue Spironolactone 25mg daily
   - increase torsemide to 40mg [**Hospital1 **]
   - start metolazone 5mg [**Hospital1 **] po
   - Goal I/O negative 1L (yesterday was positive 700mL), will hold lasix
   gtt for now and bolus diuril as needed later today to meet diuresis
   needs (was given 500mg PO chlorothiazide yesterday evening)
   - Lytes [**Hospital1 **] while diuresing (K repleted this morning)
   - Amytriptyline started [**9-21**], will monitor QT interval (slightly
   prolonged on recent EKG)
   - Continue Ativan prn for anxiety
   - Continue aggressive bowel regimen
   .
   # Pump:  Patient presented with fluid overload, likely exacerbation of
   well known systolic CHF (EF 20%) and diastolic dysfunction. Pt with
   significant diuresis this stay, but was positive 700mL yesterday.
   -Diuril boluses prn to maintain Is and Os at goal; goal 1L negative
   today
   -Other diuretic changes/types listed above under hypoxic respiratory
   failure plan
   .
   # Coronaries:  Patient has known CAD s/p CABG. Recent cath showed 2VD,
   patent LIMA to LAD, and diastolic dysfunction with no interventions
   performed. No active chest pain.
   - Continue ACE-I, BB, statin, ASA 81mg daily
   .
   # Rhythm:  Currently in sinus with 1:1 conduction.  Patient has history
   of VF arrest with AICD removal given recurrent bloodstream infections.
   - Monitor on telemetry
   .
   #  Blood pressure: Tolerating SBPs in the 80s. Goal SBP < 100.
   - Anti-hypertensive regimen as above.
   .
   # AVR: Goal INR 2.5 - 3.5.  INR today not at goal.
   - give 10mg coumadin today, then resume 5mg daily coumadin
   - continue heparin gtt until therapeutic on warfarin
   .
   # UTI: Pt urine culture positive for ESBL Klebsiella.
   - Continue Meropenem for 14 d course (day 1=[**9-20**]; final day = 10/10/9).
   .
   #  Constipation:  Continue aggressive bowel regimen.
   - Patient denies prior colonoscopy; consider colonoscopy as outpatient
   .
   # Anemia
 Patient with chronic anemia, but with more recent 4-point
   Hct drop on admission that has been stable since. Guiac negative, no
   obvious bleeding source found on exam.  Given that Hct has been
   consistently low, suspect that Hct 27.3 was likely a spurious result.
   Retic count high nl when adjusted for low crit. Hct stable this AM.
   - check daily Hct
   .
   # R leg ulcer: s/p surgical debridement by VSurg [**9-8**]. Wound VAC placed
   [**9-9**]; no longer with wound vac in place.
   - Continue wound care per wound care recs.
   - Standing Tylenol
   - Oxycodone prn pain
   - confirm weight-bearing status of the foot with vascular
   .
   # DM 2:
   -glargine at bedtime
   -humalong SS
   -diabetic diet
   .
   # Hyperlipidemia: Continue Atorvastatin.
   .
   # Hep C:  Per Hepatology, deferring treatment for now. [**Month (only) 60**] consider
   reassessment if patient continues to improve.
   .
   # Hypothyroidism: Not currently on thyroid replacement therapy given
   that last TSH was appropriate
   ICU Care
   Nutrition:
   Glycemic Control:  glargine, ISS w/humalog
   Lines:
   PICC Line - [**2178-9-24**] 01:40 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU and hopefully to floor/STR soon
   ------ Protected Section ------
   TITLE:    ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) 10454**] today and
   I concur with the history, physical examination, assessment and
   treatment plan. The physical examination documented above is consistent
   with mine today.   Mr. [**Known lastname 10165**] is well known to the CCU due to a
   prolonged hospitalization complicated by recurrent requirements for
   intubation for flash pulmonary edema.  It is felt that these episodes
   result from changes in the systolic BP (to 140-160 mmHg).
   Over the past 24 hours, his diuresis has continued. His BP is improved
   to 108-110 systolic on the lower dosage of captopril 37.5 mg tid.
   He remains symptomatically improved without episodes of flash pulmonary
   edema.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2178-9-30**] 16:33 ------